US07214802B2
To a 0° C. solution of 855 mg (3.50 mmol) of cyclopropylmethyl-(5-trimethylsilanylethynyl-pyridin-2-yl)-amine in 7 mL of THF, was slowly added 7.0 mL (7.0 mmol) of 1M TBAF in THF. The mixture was stirred for 2 h, then poured into water and extracted with Et2O. The Et2O was washed with brine. The washes were extracted once with Et2O, and the combined extracts were diluted with 10 mL of CH2Cl2 and left to sit for 10 min. The solution was then decanted from the water that had separated, and was dried with Na2SO4, filtered, concentrated, and chromatographed (1–20% EtOAc in hexanes) to provide 467 mg of 2-(cyclopropylmethyl)amino-5-ethynyl pyridine.

reactant | cyclopropylmethyl-(5-trimethylsilanylethynyl-pyridin-2-yl)-amine | 3.50 mmol, 855 mg | C1(CC1)CNC1=NC=C(C=C1)C#C[Si](C)(C)C | C14H20N2Si
reactant | TBAF | 7.0 mmol, 1M, 7.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 2-(cyclopropylmethyl)amino-5-ethynyl pyridine | 467 mg | C1(CC1)CNC1=NC=C(C=C1)C#C | C11H12N2
